US05541195
(2R*,4S*)-2-Benzyl-1-(9-fluorenoyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine
200 mg (0.467 mmol) of (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine are reacted in analogy to Example 4a with 78 mg (0.562 mmol) of 9-fluorene carboxylic acid, 143 mg (0.561 mmol) of bis-(2-oxo-3-oxazolidinyl)phosphinic chloride and 144 μl (1.03 mmol) of triethylamine. The title compound (241 mg, 82%) is obtained as oil. TLC: methylene chloride/methanol/conc. ammonia (1000:50:1) Rf =0.58, FD-MS: M+ =619.

reactant | (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 0.467 mmol, 200 mg | C(C1=CC=CC=C1)[C@H]1NCC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12 | C24H24F3N3O
reactant | 9-fluorene carboxylic acid | 0.562 mmol, 78 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)C(=O)O | C14H10O2
reactant | bis-(2-oxo-3-oxazolidinyl)phosphinic chloride | 0.561 mmol, 143 mg | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | triethylamine | 1.03 mmol, 144 μl | C(C)N(CC)CC | C6H15N
product | (2R*,4S*)-2-Benzyl-1-(9-fluorenoyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 241 mg, 82% | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12)C(=O)C1C2=CC=CC=C2C=2C=CC=CC12 | C38H32F3N3O2
